US05053509
Using the procedure described in Example 16, but starting with 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.16 g) and (RS)-2-[4-(methoxymethyl)phenyl]piperazine (1.82 g), (RS)-7-fluoro-8-{3-[4-(methoxymethyl)phenyl]-1-piperazinyl}-1-methyl-4-oxo -1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.70 g) is obtained in the form of a yellow solid, decomposing at 284° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.16 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | (RS)-2-[4-(methoxymethyl)phenyl]piperazine | 1.82 g | COCC1=CC=C(C=C1)C1NCCNC1 | C12H18N2O
product | (RS)-7-fluoro-8-{3-[4-(methoxymethyl)phenyl]-1-piperazinyl}-1-methyl-4-oxo -1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.70 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(NCC1)C1=CC=C(C=C1)COC | C26H25FN4O4
